US06399644B1
To sodium hydride (90 mg, 2.3 mmol) in tetrahydrofuran (10 mL) at 0°C. was added 1,1-dimethylethyl-7-bromo-1,2-benzisothiazole-2(3H)-carboxylate 1,1-dioxide (0.36 g, 1.5 mmol). The reaction was stirred for 20 min and treated with N,N-diethylaminoethyl bromide hydrobromide (0.39 g, 1.5 mmol) and potassium carbonate (0.62 g, 4.5 mmol). The resulting mixture was stirred at ambient temperature over 18 h, poured into ice water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated in vacuo. The crude material was purified by a flush chromatography (methanol/methylene chloride, 1:9) to afford 7-bromo-N,N-diethyl-1,2-benzisothiazole-2(3H)-ethanamine 1,1-dioxide (0.48 g, 93%). LRMS (ES+): 348.0 (M+H)+.

reactant | sodium hydride | 2.3 mmol, 90 mg | [H-].[Na+]
reactant | 1,1-dimethylethyl-7-bromo-1,2-benzisothiazole-2(3H)-carboxylate 1,1-dioxide | 1.5 mmol, 0.36 g | CC(C)(C)C1N(S(C2=C1C=CC=C2Br)(=O)=O)C(=O)[O-]
reactant | N,N-diethylaminoethyl bromide hydrobromide | 1.5 mmol, 0.39 g | Br.C(C)N(CC)CCBr
reactant | potassium carbonate | 4.5 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-bromo-N,N-diethyl-1,2-benzisothiazole-2(3H)-ethanamine 1,1-dioxide | 0.48 g, 93% | BrC1=CC=CC=2CN(S(C21)(=O)=O)CCN(CC)CC | C13H19BrN2O2S
